* These are average models for the simulation of voltage, current and 
* resonant mode supplies. 

* Copyright 1990-1995 by MicroSim Corporation
* Neither this library nor any part may be copied without the express
* written consent of MicroSim Corporation

* $Revision:   1.11  $
* $Author:   RPEREZ  $
* $Date:   16 Apr 1997 13:09:40  $

* ---------------------------------------------------------------------------

* For more Information please refer to:
*
* 1) Vatche Vorperian, "Simplified Analysis of PWM Converters
*    using Model of PWM Switch", IEEE Transactions on Aerospace and 
*    Electronic Systems, May 1990, Vol 26 No 3, pp. 490-505.
*
* 2) Vatche Vorperian, "Equivalent Circuit Models for Resonant and PWM
*    Switches", IEEE Transactions on Power Electronics, Vol 4 No 2, April
*    1989, pp. 205-214.
*
* Other useful references for the simulation of switching regulators are:
*
* 1) Vincent G. Bello, "Using the SPICE2 CAD package for easy simulation
*    of switching regulators in both continuous and discontinuous 
*    conduction modes", Proceedings of Powercon 8, Paper H3, April 1981.
*
* 2) Vincent G. Bello, "Using the SPICE2 CAD package to simulate and 
*    design the current mode converter", Proceedings of Powercon 11,
*    Paper H2, 1984.
*
 
* Please read the notes above the models where they exist and review
* the sample power supplies supplied.

*
*$
**** VMLSCCM ****
*
* Large signal voltage Continuous conduction voltage mode model
* Params:  RMPHITE  --> External ramp height 
*       VALLEYV  --> Valley voltage of external ramp
*
* Pins  control voltage --  
*       common --------   |
*       passive-----   |  |
*       active --   |  |  |
*                |  |  |  |
.subckt VMLSCCM  A  P  C  VC Params: RMPHITE=2 VALLEYV=1 
  emod d 0   table {(v(vc)-VALLEYV)/RMPHITE} = (0,0) (1,1)
  gap  a x   value {v(d)*i(vcm)} 
  ecp  x p   value={v(d)*v(a,p)}
  vcm  x c 0
  rconv d 0 1g
.ends

*------------------------------------------------------------------------------
*|* This  Supply uses Vorperians "Switch Model" to simulate a power supply which is
*|* also simulated with the macromodel of the sg1526 c.f. "sg1526.cir" . 
*|
*|* A transient and AC analysis can be performed on the circuit and
*|* the information obtained is documented below
*|
*|* The file as it stands does the transient analysis
*|* To do the ac analysis just remove the '*' from the .AC statement
*|* and insert a '*' in front of the .tran statement, then select
*|* which ac source to activate depending on which characteric of
*|* the power supply you want to examine. 
*|
*|.lib "swit_rav.lib"
*|.probe
*|
*|* the tran statement will simulate 10ms during which the supply experiences 
*|* a one amp step load and a .1 volt step at the positive input of the error 
*|* amp
*|*
*|.tran 1ns 10ms  
*|
*|*.ac dec 10 10 100k
*|
*|  VIN 1 0 20 ac 0    ; with ac set to 1 and the ac analysis sweep done
*|*        vdb(out)-vdb(10)  ---->   audio suceptibility
*|  vinAC 55 out 0 ac 1  ; with ac set to 1 and the ac analysis sweep done
*|*        vdb(out)-vdb(55)  ---->   loop gain
*|*        vp(out)-vp(55)    ---->   loop phase
*|*        vdb(out)-vdb(10)  ---->   control to output transfer function gain  
*|*        vp(out)-vp(10)    ---->   control to output transfer function phase
*|  Iout out 0 0 ac 0    ; with ac set to 1 and the ac analysis sweep done
*|*        v(out)            ---->   output impedance
*|*
*|  vref 51 0 pulse(4.9 5 6ms 1us 1us 25ms 50ms)
*|  iload out 0 pulse(0 1 1ms 1us 1us 25ms 50ms)
*|  rdamp 2 3 3
*|  lf 3 out 500uh
*|  rc1 6 0 .0002
*|  cf out 6 4840uf
*|  rl out 0 5
*|  x1 1 0 2 10  VMLSCCM Params: RMPHITE=2 VALLEYV=1 
*|  x2 51  55 10 erramp
*|* compesation network 
*|  CCOMP 78 0 100N
*|  RCOMP 10 78 18k
*|* ERROR AMPLIFIER
*|* OUTPUT -----------------
*|* INVERTING I/P -----    |
*|* NON INV I/P ---   |    |
*|*               |   |    |
*|.SUBCKT erramp  1   2    5  
*|  VT 10 0 4.3
*|  VB 20 0 .7
*|  RIN1 1 0 1e10
*|  RIN2 2 0 1e10
*|  DT 5 10 DX
*|  DB 20 5 DX
*|  G1 0 5 TABLE {.0045 *(V(1)-V(2)) } (-200U -200U) (200U 200U)
*|  ROUT 5 0  2meg
*|  CPOLE 5 0 .2N
*|.MODEL DX D(IS=1E-19 RS=.01)
*|.ENDS
*--------------------------------------------------------------------------

*$
**** VMLSDCM ****
*
* Large signal Discontinuous conduction voltage mode model
* Params:  RMPHITE  --> External ramp height 
*       VALLEYV  --> Valley voltage of external ramp
*       LFIL     --> Filter inductance
*       FS       --> Operating frequency
*
* Pins  control voltage --  
*       common --------   |
*       passive-----   |  |
*       active --   |  |  |
*                |  |  |  |
.subckt VMLSDCM  A  P  C  Vc Params: RMPHITE=2 VALLEYV=1 LFIL=500u FS=50k
  vconv conv  0  1
  emod  d     0  table {v(conv)*(v(vc)-VALLEYV)/RMPHITE} = (.01,.01) (.99,.99)
  etbl  anum  0  table {2*lfil*fs*i(vmp)} (1e-8,1e-8) (400,400)
  emew  mew   0  value={v(conv)*v(d)*v(d)*v(a,c)/v(anum) }
  gac   a     c  value={v(conv)*v(mew)*i(vmp) } 
  ecp   c     x  value={v(conv)*v(mew)*v(a,c)}
  vmp   p     x  0
  rconv d     0  1g
  rc    conv  0  1g 
  ranum anum 0 1g
  r5    mew   0  1g
.ends

*--------------------------------------------------------------------------
*|* Discontinuous conduction mode power supply example
*|* The file as it stands does the transient analysis
*|* To do the ac analysis just remove the '*' from the .AC statement
*|* and insert a '*' in front of the .tran statement, then select
*|* which ac source to activate depending on which characteric of
*|* the power supply you want to examine. 
*|
*|.option abstol=1e-8
*|.lib "swit_rav.lib"
*|.probe
*|
*|* the tran statement will simulate 5ms during which the reference steps from 
*|* 5 to 5.1
*|*
*|.tran 1ns 60ms   
*|*.savebias "tran.dat" tran time 39.9m
*|*.loadbias "tran.dat"
*|*.ac dec 10 10 100k
*|
*|  VIN 1 0  pulse (0 20  1ns 1ms 1ms 20 40) ac 0    ; with ac set to 1 and the ac analysis sweep done
*|*        vdb(out)-vdb(10)  ---->   audio suceptibility 
*|  vinAC 55 out 0 ac 1  ; with ac set to 1 and the ac analysis sweep done
*|*        vdb(out)-vdb(55)  ---->   loop gain
*|*        vp(out)-vp(55)    ---->   loop phase
*|*        vdb(out)-vdb(10)  ---->   control to output transfer function gain  
*|*        vp(out)-vp(10)    ---->   control to output transfer function phase
*|  Iout out 0 0 ac 0    ; with ac set to 1 and the ac analysis sweep done
*|*        v(out)            ---->   output impedance
*|*
*|  iload out 0 .01
*|  rdamp 2 3 3
*|  lf 3 out 500uh
*|  rc1 6 0 .0002
*|  cf out 6 4840uf
*|  rl out 0 1g
*|  x1 1 0 2 10  VMLSDCM params: lfil=500u fs=50k
*|  vref 51 0 pulse (5 5.1 40ms 1ns 1ns 40ms 80ms)
*|  x2 51  55 10 erramp
*|* compesation network
*|  CCOMP 10 78 100N
*|  RCOMP 78 0 18k
*|
*|* ERROR AMPLIFIER
*|* OUTPUT -----------------
*|* INVERTING I/P -----    |
*|* NON INV I/P ---   |    |
*|*               |   |    |
*|.SUBCKT erramp  1   2    5  
*|  VT 10 0 4.3
*|  VB 20 0 .7
*|  RIN1 1 0 1e10
*|  RIN2 2 0 1e10
*|  DT 5 10 DX
*|  DB 20 5 DX
*|  G1 0 5 TABLE {.0062 *(V(1)-V(2)) } (-200U -200U) (200U 200U)
*|  ROUT 5 0  2meg
*|  CPOLE 5 0 .2N
*|.MODEL DX D(IS=1E-19 RS=.01)
*|.ENDS
*----------------------------------------------------------------------------

*$
**** VMCCMDCM ****
*
* NOTES:: This model combines the CCM and DCM model for voltage model control
* The purpose of this model is to allow the user view the effect 
* of a load transient which traverses the CCM-DCM switching point.
* Due to some convergence problems this model needs a setup time to start 
* the simulation. The relevant load transient should be started and viewed
* after the transients from the setup have died out. The default for this
* setup period {start} is 4 milli seconds.
*
*
* Large signal combined CCM and DCM model
* Params:  RMPHITE  --> External ramp height 
*       VALLEYV  --> Valley voltage of external ramp
*       LFIL     --> Filter inductance
*       FS       --> Operating frequency
*          START    --> setup time necessary for the model to set itself up
*
* Pins  control voltage --  
*       common --------  |
*       passive-----  |  |
*       active --  |  |  |
*               |  |  |  |
.subckt vmccmdcm  A  P  C  Vc  Params: RMPHITE=2 VALLEYV=1 LFIL=500u FS=50k
+ start=4m
  emod  d     0  table {v(conv)*(v(vc)-VALLEYV)/RMPHITE} = (.01,.01) (.99,.99)
  vconv conv 0 1
  rcr conv 0 1g
  va a adash 0
*  D1 ADASH ADASHD DX 
  r1 compa  0 1g
  r2 compb  0 1g
  r3 is_ccm 0 1g
  r4 is_dcm 0 1g
  r5 mew    0 1g
  r6 mewexp 0 1g
  r7 viva   0 1g
  r8 st     0 1g
  r9 vc     0 1g
  vstart start 0 pulse (0 1 {start-2m} 1m 1m 100 200)
  rstart start 0 1k
  Eclip viva 0 table {i(va)} (1e-6,1e-6) (300,300)  ; clip i(va)
  ecompa compa 0 table={v(start)*v(conv)*(v(c,p))/V(Viva) } (0 0) (11k 11k)
  ecompb compb 0 table={v(conv)*-2*lfil*Fs/(v(d)*v(d)-v(d)+1e-6)} (0 0) (1k 1k)
  vccm ccmst 0 1
  sst  ccmst is_ccm st 0 sccdc
  sst1 is_ccml is_ccm st 0 sccdco
.model sccdc vswitch(ron=1 roff=1meg von=1 voff=.5)
.model sccdco vswitch(ron=1meg roff=1 von=1 voff=.5)
  vsst  st  0 pulse(10 0 1ns 1ns 1ns 100 200)
  eccm is_ccml 0 table {V(CONV)*10*(v(compb,compa)) }= (0,0) (1,1)
  edcm is_dcm 0  value={v(conv)*(1-v(is_ccm)) } 
*calculate voltage ratio for switch in dcm for common common configuration
  emew mew 0 value={  v(conv)*((v(d)*v(d)*(v(c,p)))/(2*lfil*fs*V(VIva)) )}
*dcm expresion for voltage ratio = mew/1+mew (common passive configuration)
  emewexp mewexp 0 value={ v(conv)*(v(mew) / ( 1+v(mew) ))} 
  gap adash x value={v(conv)*(v(is_ccm)*v(d)*i(vm)+ v(is_dcm)*v(mewexp)*i(vm)) } 
  ecp x p value={v(conv)*(v(is_ccm)*v(d)*v(a,p) + v(is_dcm)*v(mewexp)*v(a,p))}
  vm x c 0
  rconv d 0 1g
.model dx d(is=1e-12 n=.15) ; this model has a low vbeon
.ends


*----------------------------------------------------------------------------
*|* This file uses Vorperians switch model and an effort is made
*|* to combine ccm and dcm in the single model
*|* This allows transient simulations which traverse both
*|* regions such a serious reduction in load as is simulated here
*|
*|.options numdgt=8 itl5=0 abstol=1e-8
*|.lib "swit_rav.lib"
*|
*|.probe
*|
*|.ic v(x1.is_ccm)=1
*|*.ac dec 10 10 100k
*|
*|  VIN 1 0 20 ac 0    ; with ac set to 1 and the ac analysis sweep done
*|*        vdb(5)-vdb(10)  ---->   audio suceptibility
*|  vinAC 55 5 0 ac 1  ; with ac set to 1 and the ac analysis sweep done
*|*        vdb(5)-vdb(55)  ---->   loop gain
*|*        vp(5)-vp(55)    ---->   loop phase
*|*        vdb(5)-vdb(10)  ---->   control to output transfer function gain  
*|*        vp(5)-vp(10)    ---->   control to output transfer function phase
*|  Iout 5 0 0 ac 0    ; with ac set to 1 and the ac analysis sweep done
*|*        v(5)            ---->   output impedance
*|*
*|
*|* the tran statement will simulate 10ms during which the supply's load
*|* is reduced from 1 a to .01 amp
*|*
*|.tran 1ns 10ms   
*|
*|* define filter values
*|.param lfil=500uh
*|.param fs = 50k
*|
*|  iload 5 0 pulse( 1 .01 100us 2ms 100us 25ms 50ms)
*|  rdamp 2 3 3
*|  lf 3 5 500uh
*|  rc1 6 0 .0002
*|  cf 5 6 4840uf
*|  rl 5 0 1g
*|  x1 1 0 2 10  vmccmdcm Params: RMPHITE=2 VALLEYV=1 LFIL=500u FS=50k 
*|  vref 51 0 5
*|  x2 51  55 10 erramp
*|* compesation network
*|  CCOMP 10 78 100N
*|  RCOMP 78 0 18k
*|
*|* ERROR AMPLIFIER
*|* OUTPUT -----------------
*|* INVERTING I/P -----    |
*|* NON INV I/P ---   |    |
*|*               |   |    |
*|.SUBCKT erramp  1   2    5  
*|  VT 10 0 4.3
*|  VB 20 0 .7
*|  RIN1 1 0 1e10
*|  RIN2 2 0 1e10
*|  DT 5 10 DX
*|  DB 20 5 DX
*|  G1 0 5 TABLE {.0062 *(V(1)-V(2)) } (-200U -200U) (200U 200U)
*|  ROUT 5 0  2meg
*|  CPOLE 5 0 .2N
*|.MODEL DX D(IS=1E-19 RS=.01)
*|.ENDS
*----------------------------------------------------------------------------

*$
**** VMSSCCM ****
*
* Small signal Continuous conduction voltage mode model
* Params:  RMPHITE  --> External ramp height 
*          D       --> Duty cycle
*          Ic      --> Current flowing from terminal C
*                       See diagrams: but for buck it is Vo/r
*                               for boost it is Iin
*       Vap      --> Voltage across terminal A P
*                    See diagrams: but for buck it is Vin
*       Rsw        --> Switch on resistance
*       Rd         --> diode on resistance
*          Rm       --> which models the base storage effects see [1] in app note
*          Re       --> models ripple across esr of cap see [1]
*                        
* Pins  control voltage --  
*       common --------   |
*       passive-----   |  |
*       active --   |  |  |
*                |  |  |  |
.subckt VMSSCCM  A  P  C  VC Params: RMPHITE=2 D=0.4 IC=1 VAP=20 
+                                    Rsw=1e-6 Rd=1e-6 Re=1e-6 Rm=1e-6
  efm  4 0 value ={v(Vc)/rmphite} 
  e2   A 6 value={v(0,4)*Vap/d}
  g1   A P value={v(4)*IC}
  gxfr 6 P VALUE={I(vms)*D}
  exfr 9 P VALUE={V(6,P)*D}
  vms  9 8 0
  rd   8 C {d*rd+(1-d)*rsw+d*(1-d)*re+rm}
  rope 4 0 1g
  rgnd 0 P 1g
.ends

*----------------------------------------------------------------------------
*|* This supply uses Vorperians linearised switch model to simulate a power supply 
*|* which is also simulated with the macromodel of the sg1526 c.f. "sg1526.cir" . 
*|* A transient and AC analysis can be performed on the circuit and
*|* the information obtained is documented below
*|
*|* The circuit description as it stands does the transient analysis
*|* To do the ac analysis just remove the '*' from the .Ac statement
*|* and insert a '*' in front of the .tran statement, then select
*|* which ac source to activate depending on which characteristic of
*|* the power supply you want to examine. 
*|.lib "swit_rav.lib"
*|
*|.probe
*|
*|*.ac dec 10 10 100k
*|*
*|VIN 1 0 20 ac 0    ; with ac set to 1 and the ac analysis sweep done
*|*        vdb(5)-vdb(10)  ---->   audio suceptibility
*|vinAC 55 5 0 ac 1  ; with ac set to 1 and the ac analysis sweep done
*|*        vdb(5)-vdb(55)  ---->   loop gain
*|*        vp(5)-vp(55)    ---->   loop phase
*|*        vdb(5)-vdb(10)  ---->   control to output transfer function gain  
*|*        vp(5)-vp(10)    ---->   control to output transfer function phase
*|Iout 5 0 0 ac 0    ; with ac set to 1 and the ac analysis sweep done
*|*        v(5)            ---->   output impedance
*|*
*|.options  expand
*|
*|* the tran statement will simulate 10ms during which the supply experiences 
*|* a one amp step load and a .1v step at the + input of the error amp 
*|*
*|.tran 1ns 10ms 
*|iload 5 0 pulse(0 1 1ms 1us 1us 25ms 50ms)
*|vref 51 0 pulse(5 5.1 6ms 1us 1us 25ms 50ms)
*|
*|lf 2 5 500uh
*|rc1 6 0 .0002
*|cf 5 6 4840uf
*|rl 5 0 5
*|x1 1 0 2 10 VMSSCCM Params: RMPHITE=2 D=0.4 IC=1 VAP=20 
*|+                                    Rsw=3 Rd=3 
*|x2 51  55 10  erramp
*|* compesation network
*|CCOMP 10 78 100N
*|RCOMP 78 0 18k
*|
*|
*|* ERROR AMPLIFIER
*|* OUTPUT -----------------
*|* INVERTING I/P -----    |
*|* NON INV I/P ---   |    |
*|*               |   |    |
*|.SUBCKT erramp  1   2    5  
*|VT 10 0 4.3
*|VB 20 0 .7
*|RIN1 1 0 1e10
*|RIN2 2 0 1e10
*|DT 5 10 DX
*|DB 20 5 DX
*|*G1 0 5 TABLE {.0062*EXP((V(1)-V(2))/.0256) *(V(1)-V(2)) } (-100U -100U) (100U 100U)
*|G1 0 5 TABLE {.0045 *(V(1)-V(2)) } (-200U -200U) (200U 200U)
*|ROUT 5 0  2meg
*|CPOLE 5 0 .2N
*|.MODEL DX D(IS=1E-19 RS=.01)
*|.ENDS
*------------------------------------------------------------------------------------

*$
**** CMSSCCM ****
*
* Small signal continuous conduction current mode model
* Params:  Se       --> External ramp slope (v/s) 
*       Sn       --> Current semse ramp slope (v/s)
*       FS       --> Operating frequency
*          D        --> Duty cycle
*          Lfil     --> filter inductance
*          Ic       --> Current from terminal C
*              see diagrams in application note          
*          Vap      --> Voltage across terminals a and p
*              see diagrams in application note          
*       Ri       --> current feedback coeeficient
* Pins  control voltage --  
*       common --------   |
*       passive-----   |  |
*       active --   |  |  |
*                |  |  |  |
.subckt CMSSCCM  A  P  C  VC   Params: Se=1e5 Sn=1e5 Fs=100k D=.75 Lfil=5u
+                          Ic=100 Vap=20 Ri=.01 pi=3.14159
RI A P { -(2*Fs*Sn*Vap*Lfil)/(D*(2*fs*Ic*Sn*Lfil+Vap*d*(2*Se*(d-1)+Sn*d) ))}
gki a p VALUE={V(VC) *Ic * d/(ri*abs(Ic))}
gr a p VALUE={(V(c,p))*(IC/Vap-d * ( ((1-d)*se/sn+.5-d)/(lfil*fs) ))}
gf p c VALUE={V(a,p)*(d*( ((1-d)*se/sn+.5-d)/(lfil*fs) )- D*(1-d)/(2*lfil*fs))}
gko p c VALUE= {V(VC)*Ic/(ri*abs(Ic))}
ro c p { (lfil*fs)/( (1-d)*se/sn+.5-d )}
cs c p   {4/(lfil*pwr(2*pi*fs,2))}
r1 vc 0 1g
r2 0 p 1g
.ends

*---------------------------------------------------------------------------
*|* Sample supply for the small signal current mode model
*|* this supply does a transient during which 10 amps is pulsed int the
*|* output (node 5)
*|* all ac quantities can be examined by using the techniques shown
*|* in the previous supplies
*|.lib "swit_rav.lib"
*|  vg 1 0 ac 0
*|  r1 2 3 .0001
*|  lf 3 5 5u
*|  rc 5 4 .003
*|  cf 4 0 6500u
*|  r 5 0 .05
*|  is 0 5 ac 0 pulse (0 10 1.6m .1n .5u 1 2)
*|  X1   1  0  2  9  CMSSCCM Params: Se=2.52e4 Sn=1.e4 Fs=100k D=.74 Lfil=5u
*|+                        Ic=150 Vap=10.1 Ri=.01
*|  x2 5 0 9 comp
*|.options itl5=0 expand
*|.tran .1ns 2.5ms 
*|.probe
*|
*|.subckt comp 1 2 3a
*|  e1 1a 0 value = {v(1)*.3333}
*|  r1 1a 4 20k
*|  r2 1a 5 1k
*|  c1 5 4 .0083u
*|  c2 4 3 .0015u
*|  rx 4 3 1g
*|  eamp 3 2 poly(2) (4,2) (6,2) 0 -1e12 1e12
*|  e3 3a 0 value = {v(3)*.33333} ; output of 1842 amp scaled by .3333
*|  r3a 3a 0 1g
*|  r1a 1a 0 1g
*|  vr 6 2 2.5
*|  rr 6 2 1g
*|.ends
*|
*|.end
*---------------------------------------------------------------------------

*$
**** CMLSCCM ****
*
* Large signal continuous conduction current mode model
* Params:  Se       --> External ramp slope (v/s) 
*       FS       --> Operating frequency
*          Lfil     --> filter inductance
*       Ri       --> current feedback coeeficient
* Pins  control voltage --  
*       common --------   |
*       passive-----   |  |
*       active --   |  |  |
*                |  |  |  |
.subckt CMLSCCM  a  p  c  Vc params: Se=2.52e4 Fs=100k Lfil=5u Ri=.01
+                                 Pi=3.14159
vmc ca c 0
rca ca 0 1g
emew mew 0 value={v(ca,p)/V(a,p)}
rmew mew 0 1g
gap a p value={i(vmc)*v(mew)}
gpc p ca value={v(vc)/ri}
gcp ca p value={v(mew)*Se/(Ri*Fs) + V(ca,p)*(1-v(mew))/(2*Lfil*Fs)}
cs c p   {4/(lfil*pwr(2*pi*fs,2))}
.ends



*---------------------------------------------------------------------------
*|* Sample supply for the large signal current mode model
*|* this supply does a transient during which 10 amps is pulsed int the
*|* output (node 5)
*|* all ac quantities can be examined by using the techniques shown
*|* in the previous supplies
*|.lib "swit_rav.lib"
*|
*|.param see=1e4 rii=.01
*|.step param rii list .005 .01
*|  vg 1 0 10.1 ac 0
*|  r1 2 3 .0001
*|  lf 3 5 5u
*|  rc 5 4 .003
*|  cf 4 0 6500u
*|  r 5 0 .05
*|  is 0 5 ac 0 pulse (0 10 1.6m 1n .5u 1 2)
*|  X1   1  0  2  9  CMLSCCM Params: Se={see} Fs=100k Lfil=5u Ri={rii}
*|  x2 5 0 9 comp
*|.options itl5=0 expand
*|.tran .1ns 2.5ms 
*|.probe
*|
*|.subckt comp 1 2 3a
*|  e1 1a 0 value = {v(1)*.3333}
*|  r1 1a 4 20k
*|  r2 1a 5 1k
*|  c1 5 4 .0083u
*|  c2 4 3 .0015u
*|  rx 4 3 1g
*|  eamp 3 2 poly(2) (4,2) (6,2) 0 -1e12 1e12
*|  e3 3a 0 value = {v(3)*.33333} ; output of 1842 amp scaled by .3333
*|  r3a 3a 0 1g
*|  r1a 1a 0 1g
*|  vr 6 2 2.5
*|  rr 6 2 1g
*|.ends
*-----------------------------------------------------------------------------

*$
**** QRLSZCS ****
*
* NOTES:: Due to the high level of nonlinearity within the supply 
* it may be necessay to simulate the supply in openloop to find the correct
* starting bias point. The procedure involves sweeping the control 
* voltage (open loop) until the correct output voltage is obtained. We can use
* the bias values to begin our transient and ac  analyses (see supply below). 
*
*
* Large signal quasi-resonant mode zero current switched model
* Params:  VCOCOEFF --> coefficant for voltage to frequency conversion
*          Fsoffset --> frequency from Vco at zero Vc 
*          Lo       --> resonant filter value
*          Co       --> resonant capacitor value
*          N        --> full wave = 2 : half wave = 1
*
* Pins  control voltage -- 
*       common --------   |
*       passive-----   |  |
*       active --   |  |  |
*                |  |  |  |
.subckt QRLSZCS  A  P  C VC   Params: VCOCOEFF=20k Lo=20n Co=.1u N=2 
+                         PI=3.14159 Fsoffset=280k
  Eco fs 0 value={(fsoffset+v(vc)*vcocoeff)*1u} ; *1u scale fs to avoid large voltages
  vmic ci c 0
  ealp alp 0 value = { 1u + sqrt(Lo/Co)*i(vmic)/(v(a,p)+1u) } ; +1u to avoid /0
  ep1  p1  0 value = {v(alp)/2+n*pi-((2*n-3) * arctan( v(alp)/sqrt(1-pwr(v(alp),2)) ) )  }
  ep2  p2  0 value = {  1/v(alp) - (2*n-3) * sqrt( 1/pwr(v(alp),2) -1) }
  rp1  p1  0 1g
  efr  fr  0 value = {V(P1)+v(P2)}
  rfr  fr  0 1g
  rp2  p2  0 1g 
  ral  alp 0 1g
  gap  a   p    value {v(fs)*v(fr)*sqrt(Lo*Co)*i(vmic)*1MEG} ;*1MEG to unscale fs
  ecp  ci  p    value={v(fs)*v(fr)*sqrt(Lo*Co)*v(a,p)*1MEG}  ;*1MEG to unscale fs
  rfs  fs  0 1g
.ends  



*---------------------------------------------------------------------------
*|* Sample supply for the large signal resonant mode  model
*|* Note that the configuration simulates the supply in open loop,
*|* we can see below that a voltage source fixes the control voltage
*|* to the correct voltage to give the desired 12 volts out
*|* The correct value of Vc is found using a dc sweep and monitoring
*|* the output. The reason for doing this is to generate the correct bias
*|* point for the supply which we save in "sav.dat". With this bias point
*|* we can now start our closed loop analysis by using the loadbias command.
*|*
*|* 
*|* all ac quantities can be examined by using the techniques shown
*|* in the previous supplies
*|*Zero current switched resonant mode supply
*|
*|.lib "swit_rav.lib"
*|.OPTIONS ABSTOL=1E-6
*|.probe
*|  vin in  0  25
*|  vsst  st  0 pulse(0 1 1m 1ns 1ns 100 200)
*|  sst1 out 0 st 0 sccdc
*|.model sccdc vswitch(ron=13 roff=1g von=1 voff=.5)
*|*.tran 1ns 5m
*|*.dc vc  4 6 .1
*|*.loadbias  "sav.dat" 
*|.savebias "sav.dat" op
*|  Lif in  in1   238u
*|  Cif in1 0     1000u
*|  Lo  in1 a     .59u
*|  x1  a   0     c  Vc QRLSZCS PARAMS: Vcocoeff=73.2k Fsoffset=287k Lo=.59u
*|+                      Co=10n N=1
*|  Co  c   0     10n
*|  Lf  c   out   41.9u
*|  Cf  out 0     5u
*|  Ro  out 0     13
*|  rf1 out 1     5.9k
*|  rf2 1   0     4.1k
*|  vc vc 0 4.334               *|||||  Open  LOOP  |||||*
*|  rc vc 0 1g                  *|||||  Open  LOOP  |||||*
*|*  X2  1 Vc comp              *|||||  Close LOOP  |||||*
*|.subckt comp 1 Vc 
*|  rin 1    neg 47k
*|  rfb neg  inb 330k
*|  cfb inb  vc  39p
*|  vpos pos 0  4.92
*|  rpos pos 0  1g
*|  eamp vc 0 value={1e8*(v(pos)-v(neg))}
*|.ends

*$


